US09422307B2
Step 1. 2-chloro-7-(quinolin-3-yl)thieno[3,2-d]pyrimidin-4-amine
The target compound (260 mg, 43% yield) was prepared in the same manner as Step 1 of Example 11 using 7-bromo-2-chlorothieno[3,2-d]pyrimidin-4-amine (500 mg, 1.90 mmol) and quinolin-3-ylboronic acid (329 mg, 1.90 mmol).

reactant | 7-bromo-2-chlorothieno[3,2-d]pyrimidin-4-amine | 1.90 mmol, 500 mg | BrC1=CSC2=C1N=C(N=C2N)Cl | C6H3BrClN3S
reactant | quinolin-3-ylboronic acid | 1.90 mmol, 329 mg | N1=CC(=CC2=CC=CC=C12)B(O)O | C9H8BNO2
product | 2-chloro-7-(quinolin-3-yl)thieno[3,2-d]pyrimidin-4-amine | 260 mg, 43% yield | ClC=1N=C(C2=C(N1)C(=CS2)C=2C=NC1=CC=CC=C1C2)N | C15H9ClN4S
